US06420485B1
A siloxane according to the present invention was prepared by charging a flask with 55.8 g (0.3 mole) of 1,3-divinyl-1,1,3,3-tetramethyldisiloxane under a nitrogen atmosphere. A platinum/vinylsiloxane catalyst, prepared according to the method described by Hitchcock et al.(Angew. Chem. Int. Ed. Engl., 30, 1991) was added at a level of 10−6 equivalent of platinum. Acetic acid (0.06 g; 0.001 mol) was introduced and the reaction mixture heated to 60° C. Trimethoxysilane (12.2 g; 0.1 mol) and 0.24 g (0.004 mol) acetic acid were added to an addition funnel and this mixture was slowly added to the flask while the temperature was maintained below 70° C. Subsequently, the reaction mixture was kept at 70° C. for 1 hr. The product was isolated by fractional distillation at 80° C./8 mm Hg to obtain a mixture (confirmed by NMR) of 7% of an α-adduct (1-vinyl-3-(1-trimethoxysilylethyl)-1,1,3,3-tetramethyldisiloxane) having the structure

reactant | 1,3-divinyl-1,1,3,3-tetramethyldisiloxane | 0.3 mole, 55.8 g | C(=C)[Si](O[Si](C)(C)C=C)(C)C | C8H18OSi2
reactant | Acetic acid | 0.001 mol, 0.06 g | C(C)(=O)O | C2H4O2
reactant | Trimethoxysilane | 0.1 mol, 12.2 g | CO[SiH](OC)OC | C3H10O3Si
reactant | acetic acid | 0.004 mol, 0.24 g | C(C)(=O)O | C2H4O2
catalyst | platinum | 10−6 equivalent | [Pt] | Pt
product | 1-vinyl-3-(1-trimethoxysilylethyl)-1,1,3,3-tetramethyldisiloxane | C(=C)[Si](O[Si](C)(C)C(C)[Si](OC)(OC)OC)(C)C | C11H28O4Si3
